US08058441B2
(b). 1-Acetyl-1,2-dihydro-6-methoxy-2,2,4-trimethylquinoline
Acetyl chloride (8 ml) was added dropwise to a cooled (0° C.) solution of 1,2-dihydro-6-methoxy-2,2,4-trimethylquinoline (1.7 g) and a catalytic amount of N,N-dimethylaminopyridine in pyridine (60 ml). After stirring for 18 h, the reaction mixture was concentrated in vacuo. The residue was dissolved in dichloromethane and washed with 1 M HCl, water, 5% aq. NaHCO3, water and brine. The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was chromatographed on silicagel in dichloromethane as eluent.

reactant | Acetyl chloride | 8 ml | C(C)(=O)Cl | C2H3ClO
reactant | 1,2-dihydro-6-methoxy-2,2,4-trimethylquinoline | 1.7 g | COC=1C=C2C(=CC(NC2=CC1)(C)C)C | C13H17NO
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetyl-1,2-dihydro-6-methoxy-2,2,4-trimethylquinoline | C(C)(=O)N1C(C=C(C2=CC(=CC=C12)OC)C)(C)C | C15H19NO2
